US07312330B2
C. 6-(3-Chloropyridin-2-yl)-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2,6-naphthyridin-1-amine
N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2,6-naphthyridin-1-amine (200 mg, 0.68 mmol) was dissolved in a mixture of dioxane/N,N-dimethylacetamide (4:1) (3 mL). To the mixture was added 2,3-dichloropyridine (200 mg, 1.36 mmol) and N,N-diisopropylethylamine (0.24 mL, 1.36 mmol). The mixture was heated at 150° C. in a Personal Chemistry microwave for 16 h. The solvents were removed under vacuum and the residue was dissolved in ethyl acetate and washed with sat. NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered and evaporated to give a brown residue. The residue was purified by flash chromatography over silica gel using a gradient of ethyl acetate:hexane (0-100%) to give the desired compound as an off-white powder (76 mg).

reactant | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2,6-naphthyridin-1-amine | 0.68 mmol, 200 mg | FC(C1=CC=C(C=C1)NC1=NC=CC=2CNCCC12)(F)F | C15H14F3N3
reactant | 2,3-dichloropyridine | 1.36 mmol, 200 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | N,N-diisopropylethylamine | 1.36 mmol, 0.24 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane N,N-dimethylacetamide | 3 mL | O1CCOCC1.CN(C(C)=O)C
product | 6-(3-Chloropyridin-2-yl)-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2,6-naphthyridin-1-amine | 76 mg | ClC=1C(=NC=CC1)N1CC=2C=CN=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F | C20H16ClF3N4
